US04609662
(b) 2-Amino-9-[(2-benzoyloxy-1-(benzoyloxymethyl)ethoxy)methyl]-9H-purine
A mixture of 3.393 g (7.04 mM) of 2-amino-9-[(2-benzoyloxy-1-(benzoyloxymethyl)ethoxy)methyl]-6-chloro-9H-purine, 100 ml ethanol, 100 ml tetrahydrofuran, 1.9 ml triethylamine was added to 0.6 g Pd-C catalyst in a Parr bottle. The mixture was shaken under 50 P.S.I. of H2 for 24 hours. The Pd-C was filtered through a Celite pad and 0.65 g fresh Pd-C was added to the reaction mixture and the hydrogenation was continued for 4 days. Column chromatography using 100% CH2Cl2, 4:1 CH2Cl2 /acetone, and 100% acetone produced the title compound, mpt. 132°-133° C.

reactant | 2-amino-9-[(2-benzoyloxy-1-(benzoyloxymethyl)ethoxy)methyl]-6-chloro-9H-purine | 7.04 mM, 3.393 g | NC1=NC(=C2N=CN(C2=N1)COC(COC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)Cl | C23H20ClN5O5
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | Pd-C | 0.6 g | [Pd] | Pd
solvent | triethylamine | 1.9 ml | C(C)N(CC)CC | C6H15N
product | 2-Amino-9-[(2-benzoyloxy-1-(benzoyloxymethyl)ethoxy)methyl]-9H-purine | NC1=NC=C2N=CN(C2=N1)COC(COC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C23H21N5O5
